US04621901
10.0 g of 4'-bromo-4-biphenylcarboxaldehyde and 5.31 g of copper (I) cyanide were dissolved in 80 ml of dimethylformamide while gassing with argon and the solution was heated to reflux for 15 hours at 180° C. bath temperature. Thereafter, the reaction mixture was poured cautiously into 200 ml of 25 percent ammonia and extracted three times with 200 ml of methylene chloride each time. The organic phases were washed once with 200 ml of 25 percent ammonia and twice with 200 ml of water each time, dried over magnesium sulphate and concentrated. Low-pressure chromatography (0.5 bar) of the yellowish, crystalline residue (8.7 g) on silica gel gave 5.85 g (74%) of 4'-cyano-4-biphenylcarboxaldehyde as slightly yellowish crystals; Rf-value (toluene/ethyl acetate vol. 90:10) 0.27.

reactant | 4'-bromo-4-biphenylcarboxaldehyde | 10.0 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C13H9BrO
reactant | copper (I) cyanide | 5.31 g | [Cu]C#N
reactant | ammonia | 200 ml | N | H3N
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4'-cyano-4-biphenylcarboxaldehyde | 5.85 g, 74% | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C14H9NO
